US09084794B2
f) (+)-4-cyclopropyl-9-(1-(2,6-difluoro-4-(quinolin-7-yl)phenyl)-2-hydroxyethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of crude (80% purity) 2-(4-bromo-2,6-difluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl acetate (0.361 mmol) in 1,4-dioxane (2 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.397 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.018 mmol), and 2M aq potassium carbonate (1.083 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The reaction was cooled at which point additional portions of 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.08 mmol) and PdCl2(dppf)-CH2Cl2 adduct (0.006 mmol) were added. The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 5 min. The black reaction mixture was then concentrated to minimal volume (˜0.5 mL) under a stream of nitrogen at which point it was diluted with a mixture of ethanol and water (2 mL, 1:1). This mixture was stirred in an oil bath at 80° C. overnight. The resulting solution was concentrated to dryness under a stream of nitrogen and then diluted with water (50 mL) and brine (20 mL). This aqueous mixture was extracted four times with ethyl acetate. The combined organic layers were treated with Silicycle Si-thiol (50 mg), dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-7% methanol/dichloromethane) and chiral HPLC (Chromegachiral CC4, methanol) followed by lyophilization from water (w/25% acetonitrile) afforded the title compound as a white solid in >99% ee (29 mg, 15% yield). MS(ES)+ m/e 494.1 [M+H]+. αD=+4 deg (c=0.06, methanol).

reactant | 2-(4-bromo-2,6-difluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl acetate | 0.361 mmol | C(C)(=O)OCC(N1CCC2(CN(C(CO2)=O)C2CC2)CC1)C1=C(C=C(C=C1F)Br)F | C21H25BrF2N2O4
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.397 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 1.083 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.08 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.018 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.006 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-4-cyclopropyl-9-(1-(2,6-difluoro-4-(quinolin-7-yl)phenyl)-2-hydroxyethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 15% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(CO)C2=C(C=C(C=C2F)C2=CC=C1C=CC=NC1=C2)F)=O | C28H29F2N3O3
